US08058299B2
2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [4-(piperidin-3-yloxy)-phenyl]-amide (44.1 mg, 0.102 mmol), 3,3-dimethyl-dihydro-pyran-2,6-dione (17.5 mg, 0.122 mmol) and triethylamine (28.5 uL, 0.204 mmol) in 1 mL DMSO were treated as above. The crude product was purified by flash chromatography to yield 2,2-dimethyl-5-oxo-5-(3-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenoxy}-piperidin-1-yl)-pentanoic acid as a white solid (33 mg, 56%). ES-MS calcd for C29H30F3N3O6 (m/e) 573.57, obsd 574 (M+H).

reactant | 2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [4-(piperidin-3-yloxy)-phenyl]-amide | 0.102 mmol, 44.1 mg | N1CC(CCC1)OC1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C22H20F3N3O3
reactant | 3,3-dimethyl-dihydro-pyran-2,6-dione | 0.122 mmol, 17.5 mg | CC1(C(OC(CC1)=O)=O)C | C7H10O3
reactant | triethylamine | 0.204 mmol, 28.5 uL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 2,2-dimethyl-5-oxo-5-(3-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenoxy}-piperidin-1-yl)-pentanoic acid | 33 mg, 56% | CC(C(=O)O)(CCC(N1CC(CCC1)OC1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)=O)C | C29H30F3N3O6
